US06509328B1
3-[3-(4-Methyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from methyl 3-(4-methyl-imidazol-1-yl)-benzoate [prepared the corresponding acid from 3-isothiocyanatobenzoic acid and 2-aminopropionaldehyde dimethyl acetal according to J. Med. Chem. 1987, 30, 1342, followed by refluxing in conc. H2SO4/MeOH] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a yellow-brown oil (10.69 g).

reactant | methyl 3-(4-methyl-imidazol-1-yl)-benzoate | CC=1N=CN(C1)C=1C=C(C(=O)OC)C=CC1 | C12H12N2O2
reactant | 3-isothiocyanatobenzoic acid | N(=C=S)C=1C=C(C(=O)O)C=CC1 | C8H5NO2S
reactant | 2-aminopropionaldehyde dimethyl acetal | COC(C(C)N)OC | C5H13NO2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | H2SO4 MeOH | OS(=O)(=O)O.CO
product | 3-[3-(4-Methyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester | 10.69 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C=NC(=C1)C)=O | C17H20N2O3
